// gain_extraction: convergence simulation (2^18 = 262144 samples).
//
// This testbench is used for gain estimation convergence analysis.
// LFSR_SEED and VIN_SEED are patched per-run by analyze_gain_extraction.py.
//
// Speed optimizations vs tb_gain_extraction.scs:
//   - CLK rise/fall = 0.1 ns  (vs 1 ns) -> fewer transition sub-steps
//   - maxstep = 9 n            -> ~4 steps/cycle instead of 28
//   - save: clk only           -> minimal CSV I/O
//
// 2^18 * 20 ns = 5.24 ms;  stop = 5.5 ms

simulator lang=spectre
global 0

ahdl_include "vin_src.va"
ahdl_include "lfsr.va"
ahdl_include "dither_adder.va"
ahdl_include "gain_amp_fixed.va"
ahdl_include "gain_estimator.va"

parameters vdd=0.9 GAIN_NOM=8.0 GAIN_ERR=0.08 fs=50e6 fin=300e3
parameters ACTUAL_GAIN=8.64
parameters DITHER_AMP=0.014063
parameters VIN_NOISE=0.01
parameters LFSR_SEED=42
parameters VIN_SEED=0

// -- Supplies ------------------------------------------------------------------
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// -- Clock: 50 MHz, fast rise/fall to minimise sub-step count -----------------
Vclk (clk 0) vsource type=pulse val0=0 val1=vdd period=20n delay=5n \
             rise=0.1n fall=0.1n width=10n

// -- Reset: deassert after 40 ns -----------------------------------------------
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  39.5n 0  40n vdd  6m vdd]

// -- LFSR enable ---------------------------------------------------------------
Ven (en 0) vsource dc=vdd

// -- Clocked noisy sine input --------------------------------------------------
IVIN (clk rst_n vinp vinn) vin_src \
     vdd=vdd vth=0.45 ampl=0.02 freq=fin sigma=VIN_NOISE seed=VIN_SEED

// -- LFSR ----------------------------------------------------------------------
ILFSR (dpn vdd vss clk en rst_n) lfsr seed=LFSR_SEED

// -- Dither adder --------------------------------------------------------------
IDITH (vinp vinn dpn vdin_p vdin_n) dither_adder \
      vdd=vdd vth=0.45 DITHER_AMP=DITHER_AMP

// -- Fixed-gain amplifier ------------------------------------------------------
IAMP (vdin_p vdin_n vamp_p vamp_n) gain_amp_fixed \
     vdd=vdd ACTUAL_GAIN=ACTUAL_GAIN

// -- Gain estimator: strobe at N = 2^8, 2^9, ..., 2^18 ------------------------
IEST (clk rst_n vamp_p vamp_n dpn) gain_estimator \
     vth=0.45 N_TOTAL=262144 DITHER_AMP=DITHER_AMP

// -- Simulation ----------------------------------------------------------------
tran tran stop=5.5m maxstep=9n

save clk
